US04005074
t-Butyl 7-(2-thienylacetamido)-3-acetoxymethyl-3-cephem-4-carboxylate.
A solution of 1.37 g. (3 mmol.) of t-butyl 7-phthalisoimido-3-acetoxymethyl-3-cephem-4-carboxylate in 10 ml. of dry THF was cooled in an ice water bath, and 0.12 ml. of anhydrous hydrazine was added. After the mixture was stirred for 5 min., 0.75 ml. of 2-thienylacetyl chloride was added, and the mixture was refluxed for 8 min., cooled and evaporated to dryness. The residue was dissolved in ethyl acetate, and the solution was washed successively with NaHCO3 solution, 1N HCl, water and brine. The crude mixture was chromatographed over silica gel using a gradient mixture of benzene and ethyl acetate. Fractions 16-73 were collected giving 340 mg. of t-butyl ester of cephalothin [α]D + 40.0° (MeCN); λEtOH 238 and 262 mμ (ε 14,200 and 8300); ir (CHCl3) 1785, 1740, 1730 and 1690 cm-1 ; nmr (CDCl3) δ 1.55 (s, 9, t-Bu), 2.1 (s, 3, CH3), 3.25 and 3.6 (ABq, 2, J = 17 Hz), 3.82 (s, 2, CH2), 4.75 and 5.14 (ABq, 2, CH2), 4.92 (d, 1, J = 4.5 Hz), 5.82 (dd, 1, J = 4.5 and 9 Hz), and 7.2 (m, 3, ArH).

reactant | THF | C1CCOC1 | C4H8O
reactant | hydrazine | NN | H4N2
reactant | 2-thienylacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | cephalothin | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)CC3=CC=CS3)SC1)C(=O)O | C16H16N2O6S2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | MeCN | CC#N | C2H3N
product | t-Butyl 7-(2-thienylacetamido)-3-acetoxymethyl-3-cephem-4-carboxylate | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(C)=O)C(=O)OC(C)(C)C)C1=O | C20H24N2O6S2
